US07842694B2
5-(Azetidin-1-ylcarbonyl)-2-bromo-4-methyl-1,3-thiazole
Oxalyl chloride (0.47 mL; 5.41 mmol) was added to a solution of 2-bromo-4-methyl-1,3-thiazole-5-carboxylic acid (1.0 g; 4.5 mmol) in DCM (25 mL). The mixture was stirred at RT for 18 hours, the DCM was evaporated in vacuo, the residue azeotroped with toluene (2×5 mL) and added to a solution of azetidine hydrochloride (503 mg; 5.41 mmol) and triethylamine (2.3 mL; 16.2 mmol) in DCM (50 mL). The mixture was stirred at RT for 18 hours, the DCM evaporated in vacuo, and the residue partitioned between water (75 mL) and ethyl acetate (150 mL). The organic layer was washed with brine, dried (MgSO4) and evaporated to a residue which was chromatographed on silica, eluting with 40% ethyl acetate in isohexane, to give a solid which was crystallised from ethyl acetate/isohexane to give the desired compound (490 mg). 1H NMR δ (CDCl3): 2.35 (m, 2H), 2.55 (s, 3H) and 4.1 (t, 4H).

reactant | Oxalyl chloride | 5.41 mmol, 0.47 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-bromo-4-methyl-1,3-thiazole-5-carboxylic acid | 4.5 mmol, 1.0 g | BrC=1SC(=C(N1)C)C(=O)O | C5H4BrNO2S
reactant | azetidine hydrochloride | 5.41 mmol, 503 mg | Cl.N1CCC1
reactant | triethylamine | 16.2 mmol, 2.3 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 5-(Azetidin-1-ylcarbonyl)-2-bromo-4-methyl-1,3-thiazole | 490 mg | N1(CCC1)C(=O)C1=C(N=C(S1)Br)C | C8H9BrN2OS
